US09328118B2
A 4 M solution of hydrogen chloride in EtOAc (2 mL) was added to a solution of tert-butyl 4-{2-[4-(2-cyano-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate (232 mg) in EtOAc (2 mL) at room temperature, and the mixture was stirred at the same temperature for 1 hour. The precipitate was collected by filtration, whereby 7-methyl-4-{4-[2-(piperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride (198 mg) was obtained as a white solid.

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-{2-[4-(2-cyano-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate | 232 mg | C(#N)C=1N=C(C2=C(N1)N(C=C2)C)C2=CC(=C(OCCC1CCN(CC1)C(=O)OC(C)(C)C)C=C2)C(F)(F)F | C27H30F3N5O3
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 7-methyl-4-{4-[2-(piperidin-4-yl)ethoxy]-3-(trifluoromethyl)phenyl}-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride | 198 mg | Cl.CN1C=CC2=C1N=C(N=C2C2=CC(=C(C=C2)OCCC2CCNCC2)C(F)(F)F)C#N | InChI=1S/C22H22F3N5O.ClH/c1-30-10-6-16-20(28-19(13-26)29-21(16)30)15-2-3-18(17(12-15)22(23,24)25)31-11-7-14-4-8-27-9-5-14;/h2-3,6,10,12,14,27H,4-5,7-9,11H2,1H3;1H
